US07576115B2
2) Synthesis of 4-{1-[4-Acetoxy-5-(4-tert-butylphenyl)thiphen-3-yl]ethylidenehydrazinocarbonyl}-2-nitro benzoic acid
To a solution of acetic acid 4-acetyl-2-(4-tert-butylphenyl)thiophen-3-yl ester (63.3 mg, 0.2 mmol) and 4-hydrazinocarbonyl-2-nitrobenzoic acid (54.0 mg, 0.24 mmol) in DMF (1 mL) was added 12 M aqueous HCl solution (16.7 μL, 0.2 mmol). The reaction mixture was stirred overnight, and then water was added. The precipitated solid was collected by filtration and washed with water and CHCl3 to give product as a pale yellow solid (29.1 mg, yield 28%).

reactant | acetic acid 4-acetyl-2-(4-tert-butylphenyl)thiophen-3-yl ester | 0.2 mmol, 63.3 mg | C(C)(=O)C=1C(=C(SC1)C1=CC=C(C=C1)C(C)(C)C)OC(C)=O | C18H20O3S
reactant | 4-hydrazinocarbonyl-2-nitrobenzoic acid | 0.24 mmol, 54.0 mg | N(N)C(=O)C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7N3O5
reactant | HCl | 0.2 mmol, 12 M, 16.7 μL | Cl | ClH
reactant | water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-{1-[4-Acetoxy-5-(4-tert-butylphenyl)thiphen-3-yl]ethylidenehydrazinocarbonyl}-2-nitro benzoic acid | 29.1 mg, yield 28% | C(C)(=O)OC=1C(=CSC1C1=CC=C(C=C1)C(C)(C)C)C(C)=NNC(=O)C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C26H25N3O7S
